US06060469
(b) 2-Bromo-4-(trifluoroacetamido)anisole
4-Amino-2-bromoanisole (5 g, 24.7 mmol) was dissolved in dichloromethane (50 ml) containing triethylamine (3.44 ml, 24.7 mmol). The solution was cooled to 0° C. and trifluoroacetic anhydride (3.5 ml, 24.7 mmol) was added slowly. The reaction was stirred at ambient temperature for 2 hours, diluted with dichloromethane (200 ml) and washed with water (2×200 ml). The organic layer was dried over sodium sulphate and the solvent was removed in vacuo leaving an oil. Chromatography on silica eluting with 15-25% ethyl acetate/hexane gave the title compound as white solid (4.4 g). 1H NMR (250 MHz, CDCl3) δ 7.79 (1H, d, J=2.6 Hz), 7.58 (1H, dd, J=2.6 Hz and 8.9 Hz), 6.90 (1H, d, J=8.9 Hz), 3.90 (3H, s).

reactant | 4-Amino-2-bromoanisole | 24.7 mmol, 5 g | NC1=CC(=C(C=C1)OC)Br | C7H8BrNO
reactant | triethylamine | 24.7 mmol, 3.44 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 24.7 mmol, 3.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-Bromo-4-(trifluoroacetamido)anisole | 4.4 g | BrC1=C(C=CC(=C1)NC(C(F)(F)F)=O)OC | C9H7BrF3NO2
